US06818780B2
2.26 g (14.87 mmoles) of 3-(4-hydroxyphenyl)-1-propanol were dissolved in dry acetone (20 ml) and potassium carbonate (2.05 g, 14.87 mmoles) was added, followed by methyl iodide (MeI) (2.11 g, 14.87 mmoles). The mixture was kept at reflux in a water bath at 60-70° C. for 48 h. After that period of time, it was diluted with water and the acetone was removed at reduced pressure. Extraction was performed with diethyl ether, and the result was washed with water, dried over sodium sulphate, filtered and the solvent was evaporated in a vacuum to give an oil (2.35 g) (94.93% yield) of 3-(4-methoxyphenyl)-1-propanol.

reactant | 3-(4-hydroxyphenyl)-1-propanol | 14.87 mmoles, 2.26 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | potassium carbonate | 14.87 mmoles, 2.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 14.87 mmoles, 2.11 g | CI | CH3I
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-(4-methoxyphenyl)-1-propanol | 2.35 g, 94.93% yield | COC1=CC=C(C=C1)CCCO | C10H14O2
